* Extracted by KLayout with GF180MCU LVS runset on : 30/07/2026 04:01

.SUBCKT programmable_nfet VSS VDD ena_bar<1> ena_bar<0> g ena<1> ena<0>
X$9 g \$6 VDD VSS ena_bar<0> ena<0> transmission_gate
X$10 g \$5 VDD VSS ena_bar<1> ena<1> transmission_gate
M$1 VSS ena_bar<0> \$6 VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P
+ PS=2.1U PD=2.1U
M$2 VSS ena_bar<1> \$5 VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P
+ PS=2.1U PD=2.1U
M$3 \$2 \$6 \$3 VSS nfet_03v3 L=1U W=40U AS=24.4P AD=24.4P PS=82.44U PD=82.44U
M$4 \$2 g \$3 VSS nfet_03v3 L=1U W=40U AS=24.4P AD=24.4P PS=82.44U PD=82.44U
M$7 \$3 \$5 \$2 VSS nfet_03v3 L=1U W=80U AS=34.8P AD=34.8P PS=123.48U PD=123.48U
.ENDS programmable_nfet

.SUBCKT transmission_gate in out VDD VSS ena_bar ena
M$1 out ena_bar in VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 out ena in VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
.ENDS transmission_gate
